US06288120B1
4′-Bromomethyl-2-chloro-biphenyl
A mixture of 4′-methyl-2-chloro-biphenyl (1.08 g, 5.33 mmol), NBS (1.14 g, 6.40 mmol) and AIBN (175 mg, 1.06 mmol) in CCl4 (37 mL) was heated at reflux for 3 h. The reaction mixture was diluted with CH2Cl2 and the organic solution was washed sequentially with aqueous saturated NaHCO3 (2×), water (1×), and brine (1×). The organic solution was dried over MgSO4, filtered, and concentrated in vacuo. The product was purified by flash chromatography (hexanes to 5% EtOAc-hexanes) to afford the title compound (920 mg). 1H NMR (CDCl3 400 MHz) δ 7.63-7.25 (m, 8H), 4.56 (s, 2H).

reactant | 4′-methyl-2-chloro-biphenyl | 5.33 mmol, 1.08 g | CC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C13H11Cl
reactant | NBS | 6.40 mmol, 1.14 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AIBN | 1.06 mmol, 175 mg | CC(C)(C#N)N=NC(C)(C)C#N | C8H12N4
solvent | CCl4 | 37 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4′-Bromomethyl-2-chloro-biphenyl | 920 mg | BrCC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C13H10BrCl
